US04393075
By the same procedure as described in Reference Example 58, 2,3-dimethoxy-5-methyl-6-(tetrahydrofur-2-yl)-1,4-benzohydroquinone (27 g, 0.106 mole) was methylated with methyl iodide, thereby being derived into 1,2,3,4-tetramethoxy-5-methyl-6-(tetrahydrofur-2-yl)benzene (28.5 g, 98%, bp1.0 135° to 138° C.). The catalytic reduction of the compound afforded 1,2,3,4-tetramethoxy-5-methyl-6-(4-hydroxybutyl)benzene (28.2 g, 99%, oily substance).

reactant | methyl iodide | CI | CH3I
reactant | 1,2,3,4-tetramethoxy-5-methyl-6-(tetrahydrofur-2-yl)benzene | 28.5 g | COC1=C(C(=C(C(=C1C1OCCC1)C)OC)OC)OC | C15H22O5
product | 1,2,3,4-tetramethoxy-5-methyl-6-(4-hydroxybutyl)benzene | 28.2 g, 99% | COC1=C(C(=C(C(=C1CCCCO)C)OC)OC)OC | C15H24O5
